US09328138B2
Intermediate B6: N-({[(1R,2S)-2-(but-3-en-1-yl)cyclopentyl]oxy}carbonyl)-3-methyl-L-valine
To a stirred solution of (1R,2S)-2-(but-3-en-1-yl)cyclopentanol (see International Patent Application Publication No. WO2009/134624) (2.1 g) and DIPEA (5.3 mL) in anhydrous 1,4-dioxane (51 ml), at 10° C. and under nitrogen, was added a solution of triphosgene (1.5 g) in dioxane (51 ml). This reaction was stirred at 22° C. for 1.5 hour and 3-methyl-L-valine (2 g) and NaOH (1M, 30.5 mL) were added, then stirred at 70° C. for 15 hours. At 22° C., the reaction solution was acidified to pH 3 with 1 N HCl and extracted with (3×100 ml) ether. The combined organic layer were washed with water (100 ml), brine (70 ml), dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography (silica gel, eluting with 10 to 100% EtOAc in hexane) to give the desired product (3.26 g). LRMS (ES+) M/Z (M+Na)+ 320.1.

reactant | (1R,2S)-2-(but-3-en-1-yl)cyclopentanol | C(CC=C)[C@H]1[C@@H](CCC1)O | C9H16O
reactant | DIPEA | 5.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphosgene | 1.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methyl-L-valine | 2 g | CC([C@H](N)C(=O)O)(C)C | C6H13NO2
reactant | NaOH | 1M, 30.5 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | 1,4-dioxane | 51 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 51 ml | O1CCOCC1 | C4H8O2
product | N-({[(1R,2S)-2-(but-3-en-1-yl)cyclopentyl]oxy}carbonyl)-3-methyl-L-valine | 3.26 g | C(CC=C)[C@H]1[C@@H](CCC1)OC(=O)N[C@@H](C(C)(C)C)C(=O)O | C16H27NO4
